US07875640B2
(R)-tert-butyl 2-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)piperidine-1-carboxylate
To a solution of 3,3-dimethylbutanal (439 mg, 4.39 mmol) in acetonitrile (8 mL) was added molecular sieves (4A beads, 8-12 mesh, 0.7 g) and (R)-tert-butyl 2-(aminomethyl)piperidine-1-carboxylate (940 mg, 4.39 mmol). The mixture was stirred for 12 hr at room temperature, filtered and washed with acetonitrile (5 mL). To this solution was added potassium thiocyanate (567 mg, 5.83 mmol) and the temperature was adjusted at 50° C. The reaction was stirred until all solids were dissolved then iodine (1.13 g, 4.39 mmol) was added. The reaction was stirred at 50° C. for 12 hr. The mixture was then stirred with 20% sodium metabisulfite for 1 hr. Then the organic layer was separated and the aqueous layer was extracted with dichloromethane (3×10 mL). The combined organics were dried over sodium sulfate, filtered and concentrated under reduced pressure to give the crude product. This intermediate was used without further purification. MS (DCI/NH3) m/z 354 (M+H)+.

reactant | 3,3-dimethylbutanal | 4.39 mmol, 439 mg | CC(CC=O)(C)C | C6H12O
reactant | (R)-tert-butyl 2-(aminomethyl)piperidine-1-carboxylate | 4.39 mmol, 940 mg | NC[C@@H]1N(CCCC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | potassium thiocyanate | 5.83 mmol, 567 mg | [S-]C#N.[K+]
reactant | iodine | 4.39 mmol, 1.13 g | II | I2
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | (R)-tert-butyl 2-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)piperidine-1-carboxylate | C(C)(C)(C)C1=CN(C(S1)=N)C[C@@H]1N(CCCC1)C(=O)OC(C)(C)C | C18H31N3O2S
